US05948820
(4) 4-Ethyl-4-(2-(4-benzyloxyphenyl)ethyl)oxazolidin-2-one
Lithium borohydride (3.2 g) was added to a solution of ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-benzyloxyphenyl)butanoate (29 g) in tetrahydrofuran (370 ml) and the mixture was refluxed under heating for 5 hours. 2 M Hydrochloric acid (40 ml) was added to the reaction mixture and the mixture was stirred for 2.5 hours. Ethyl acetate was added to the reaction mixture, the mixture was washed with water and a saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure. Treatment of the residue with hexane and ethyl acetate gave the subject compound (11 g). Then, the mother liquid was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:2) to give the subject compound (11 g).

reactant | Lithium borohydride | 3.2 g | [BH4-].[Li+]
reactant | ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-benzyloxyphenyl)butanoate | 29 g | C(C)C(C(=O)OCC)(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(=O)OC | C23H29NO5
reactant | Hydrochloric acid | 2 M, 40 ml | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 370 ml | O1CCCC1 | C4H8O
product | 4-Ethyl-4-(2-(4-benzyloxyphenyl)ethyl)oxazolidin-2-one | 11 g | C(C)C1(NC(OC1)=O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H23NO3
